US07482448B2
Dess-Martin Periodinane (15 wt % in DCM, 0.58 gm, 0.21 mmol) is added to a solution of morpholine-4-carboxylic acid [(S)-3,3-difluoro-1-((S)-1-{hydroxy-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-methyl}-propylcarbamoyl)-hexyl]-amide (61 mg, 0.10 mmol) in dry methylene chloride (8 mL) and stirred at room temperature for 3 hrs. The reaction is quenched with a solution of Na2S2O3 (81.43 mg, 0.50 mmol) in aqueous NaHCO3. The organic layer is separated and the aqueous extracted with dichloromethane. The organic extracts are dried over sodium sulfate and concentrated under reduced pressure. Column chromatography on silica eluting with a mixture of methylene chloride and ethyl acetate gives morpholine-4-carboxylic acid ((S)-3,3-difluoro-1-{(S)-1-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazole-2-carbonyl]-propylcarbamoyl}-hexyl)-amide as a powder (39 mg).

reactant | Dess-Martin Periodinane | 0.21 mmol, 0.58 gm | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | morpholine-4-carboxylic acid [(S)-3,3-difluoro-1-((S)-1-{hydroxy-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazol-2-yl]-methyl}-propylcarbamoyl)-hexyl]-amide | 0.10 mmol, 61 mg | FC(C[C@@H](C(N[C@@H](CC)C(C=1OC(=NN1)C1=CC=C(C=C1)OC(F)(F)F)O)=O)NC(=O)N1CCOCC1)(CCC)F | C25H32F5N5O6
reactant | Na2S2O3 | 0.50 mmol, 81.43 mg | [O-]S(=O)(=S)[O-].[Na+].[Na+]
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | morpholine-4-carboxylic acid ((S)-3,3-difluoro-1-{(S)-1-[5-(4-trifluoromethoxy-phenyl)-1,3,4-oxadiazole-2-carbonyl]-propylcarbamoyl}-hexyl)-amide | 39 mg | FC(C[C@@H](C(N[C@@H](CC)C(=O)C=1OC(=NN1)C1=CC=C(C=C1)OC(F)(F)F)=O)NC(=O)N1CCOCC1)(CCC)F | C25H30F5N5O6
